US08207172B2
2-{6-[(3-chloro-4-fluorophenyl)amino]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl}ethyl methanesulfonate (80 mg, 0.1 mmol), piperazine (25.1 mg, 0.29 mmol) and diisopropylethylamine (25 mg, 0.19 mmol) were mixed in 2 mL DMF. The reaction mixture was stirred at 80° C. for 16 h. The reaction mixture was diluted with water and extracted with EtOAc. The combined organic layer was concentrated under reduced pressure and purified by prep HPLC. The combined fractions were treated with saturated Na2CO3 and dried to afford free base product N-(3-chloro-4-fluorophenyl)-3-(2-piperazin-1-ylethyl)-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine (18.8 mg, 40%). 1H-NMR (DMSO-d6) δ 8.65 (broad s, 1H), 8.30 (s, 1H), 7.86 (dd, 1H), 7.60 (s, 1H), 7.56 (m, 1H), 7.35 (t, 1H), 4.19 (t, 2H), 4.34 (t, 2H), 3.20 (broad, 1H), 3.08 (t, 2H), 2.62 (m, 6H), 2.31 (m, 4H). LCMS RT=2.35 min, [M+H]+=484.1

reactant | 2-{6-[(3-chloro-4-fluorophenyl)amino]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl}ethyl methanesulfonate | 0.1 mmol, 80 mg | CS(=O)(=O)OCCN1N=CC=2C3=C(CCC12)C1=C(S3)N=CN=C1NC1=CC(=C(C=C1)F)Cl | C20H17ClFN5O3S2
reactant | piperazine | 0.29 mmol, 25.1 mg | N1CCNCC1 | C4H10N2
reactant | diisopropylethylamine | 0.19 mmol, 25 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(3-chloro-4-fluorophenyl)-3-(2-piperazin-1-ylethyl)-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 18.8 mg, 40% | ClC=1C=C(C=CC1F)NC=1N=CN=C2C1C1=C(C=3C=NN(C3CC1)CCN1CCNCC1)S2 | C23H23ClFN7S
